US04377585
N-[4-(4-pyridinyl)phenyl]-2-butenamide
A mixture containing 6.8 g. of 4-(4-pyridinyl)benzeneamine, 17.8 ml. of crotonic anhydride and 200 ml. of chloroform was stirred at room temperature for 2 hours and then under reflux for 16 hours. The suspension was filtered and the filtercake was suspended in water plus ammonium hydroxide solution and was refiltered to give 3.86 g. of light tan solid after air-drying on the funnel. The chloroform filtrate was concentrated in vacuo and the tan residue was suspended in a mixture of water and ammonium hydroxide and the mixture filtered to give more tan solid. The combined tan solids were taken up in dimethylformamide, the hot solution filtered and the filtrate concentrated to less than 300 ml. and then treated with a slight excess of methanesulfonic acid in ethanol. The resulting mixture was diluted with ether and the separated product was collected and dried in vacuo at 125° C. for 14 hours to yield 4.31 g. of N-[4-(4-pyridinyl)phenyl]-2-butenamide methanesulfonate, m.p. 247°-249° C.

reactant | 4-(4-pyridinyl)benzeneamine | N1=CC=C(C=C1)C1=CC=C(C=C1)N | C11H10N2
reactant | crotonic anhydride | C(\C=C\C)(=O)OC(\C=C\C)=O | C8H10O3
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | N-[4-(4-pyridinyl)phenyl]-2-butenamide methanesulfonate | CS(=O)(=O)O.N1=CC=C(C=C1)C1=CC=C(C=C1)NC(C=CC)=O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N-[4-(4-pyridinyl)phenyl]-2-butenamide | N1=CC=C(C=C1)C1=CC=C(C=C1)NC(C=CC)=O | C15H14N2O
